US07576115B2
Synthesis of 2-bromo-5-(4-t-butylphenyl)-4-hydroxy-3-methylcarbonylthiophene
2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene (2.66 g, 9.7 mmol), N-bromosuccinimide (1.73 g, 9.7 mmol) and benzoyl peroxide (153 mg, 0.63 mmol) were heated with reflux for 2 hours in 65 ml of chloroform. Water was added, and the reaction solution was extracted three times with chloroform, and the organic layer was washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous sodium sulfate. The obtained organic layer was concentrated, and then purified with a silica gel column chromatography (n-hexane/chloroform=3/2) to obtain the desired product as a yellow solid (2.93 g, yield 86%).

reactant | 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene | 9.7 mmol, 2.66 g | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C16H18O2S
reactant | N-bromosuccinimide | 9.7 mmol, 1.73 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | chloroform | 65 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | benzoyl peroxide | 0.63 mmol, 153 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-bromo-5-(4-t-butylphenyl)-4-hydroxy-3-methylcarbonylthiophene | 2.93 g, yield 86% | BrC=1SC(=C(C1C(=O)C)O)C1=CC=C(C=C1)C(C)(C)C | C16H17BrO2S
